US06964966B2
Ethyl chloroformate (2 ml) was added to a stirred solution of 4-amino-1-benzyl-3,3-dimethylpiperidine (1.6 g, 7.33 mmol) and triethylamine (2 ml) in methylene chloride (25 ml) at ambient temperature, stirring was continued for 1 hr concentrated to dryness, triturated with water, extracted with ethyl acetate, dried (Na2SO4) and concentrated to give 1-benzyl-4-carbethoxyamino-3,3-dimethyl piperidine as oil. Yield 1.3 g (62%), C17H26N2O2, m/z 291 (M+1), PMR (CDCl3): 0.98 (s, 3H), 1.2 (t, 6H), 1.78 (m, 2H), 2.42 (m, 2H), 2.82 (m, 2H), 3.6 (d, 2H), 3.9 (m, 1H), 4.1 (q, 2H), 4.8 (bs, 1H), 7.54 (m, 5H).

reactant | Ethyl chloroformate | 2 ml | ClC(=O)OCC | C3H5ClO2
reactant | 4-amino-1-benzyl-3,3-dimethylpiperidine | 7.33 mmol, 1.6 g | NC1C(CN(CC1)CC1=CC=CC=C1)(C)C | C14H22N2
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-benzyl-4-carbethoxyamino-3,3-dimethyl piperidine | C(C1=CC=CC=C1)N1CC(C(CC1)NC(=O)OCC)(C)C | C17H26N2O2
